data/oMe_Silver.jsonl
{"reaction_id": "NR-148_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C(F)(F)F_3-C(C)(C)C_4-C(C)(C)C_5-C_6-C(C)(C)C","name": "Mukaiyama Aldol Addition","level": "medium","reactants_smiles": ["C(=C(C(F)(F)F)C(C)(C)C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)O[Si](C(C)(C)C)(C(C)(C)C)(C(C)(C)C)","C(=O)(C)(C(C)(C)C)"],"products_smiles": ["CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=O)C(C(F)(F)F)(C(C)(C)C)C(O)(C)(C(C)(C)C)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(=[O+][Si](C(C)(C)C)(C(C)(C)C)(C(C)(C)C))(C)(C(C)(C)C)","rationale": "The Lewis acid coordinates to the carbonyl oxygen, withdrawing electron density and increasing the electrophilicity of the carbonyl carbon, making it more susceptible to nucleophilic attack by the silyl enol ether."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=O)C(C(F)(F)F)(C(C)(C)C)C(O[Si](C(C)(C)C)(C(C)(C)C)(C(C)(C)C))(C)(C(C)(C)C)","rationale": "The silyl enol ether attacks the activated carbonyl carbon, driven by the strong nucleophilicity of the enol double bond and stabilization of the developing positive charge by the silyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C(=O)C(C(F)(F)F)(C(C)(C)C)C(O)(C)(C(C)(C)C)","rationale": "Proton transfer occurs to replace the silyloxy group with a hydroxyl, favored under acidic conditions and driven by the stability of the neutral β-hydroxy carbonyl product."}],"description": "Under acidic conditions, the Mukaiyama aldol addition proceeds via Lewis acid activation of the carbonyl, enabling nucleophilic attack by the silyl enol ether. Subsequent proton transfer yields the β-hydroxy carbonyl product with high chemoselectivity due to enhanced electrophilicity and stable intermediates."}
{"reaction_id": "NR-314_1-C(C)(C)C_2-CCCC(C)C_3-CC_4-CCCC(C)C","level": "medium","name": "Upjohn Dihydroxylation","reactants_smiles": ["C(C(C)(C)C)(CCCC(C)C)=C(CC)(CCCC(C)C)","C[N+]1(CCOCC1)[O-]"],"products_smiles": ["C(O)(C(C)(C)C)(CCCC(C)C)C(O)(CC)(CCCC(C)C)"],"conditions": "cat. OsO4, NMO, H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C(C)(C)C)(CCCC(C)C)O[Os](=O)(=O)OC1(CC)(CCCC(C)C)","step_weight": 0,"rationale": "The alkene’s π electrons coordinate to electrophilic Os(VIII) in OsO4, forming a cyclic osmate ester via concerted [3+2] cycloaddition, favored by strong osmium–oxygen π-acceptor interactions and minimal steric hindrance in the transition state."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O)(C(C)(C)C)(CCCC(C)C)C(O)(CC)(CCCC(C)C)","step_weight": 0,"rationale": "Water attacks the electrophilic osmium-bound carbons, cleaving the Os–O–C bonds; the good leaving ability of the osmium species and relief of ring strain drive formation of the cis-diol."},{"step": 3,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "O=[Os](=O)(=O)=O","step_weight": 0,"rationale": "NMO oxidizes Os(VI) back to Os(VIII) via single-electron transfer, driven by N–O bond cleavage and the high thermodynamic stability of the reoxidized osmium species, allowing catalytic turnover."}],"description": "The alkene undergoes syn-dihydroxylation via OsO4-mediated [3+2] cycloaddition to form a cyclic osmate ester. Hydrolysis releases the cis-diol, and NMO reoxidizes Os(VI) to Os(VIII), enabling catalytic turnover under mild aqueous conditions."}
